US06300352B1
a) 3-Bromophenyl-1-morpholin-4-yl-ethanone
Prepared according to the method described in Example 24a) from 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide 4-hydrochloride (0.764 g), 4-dimethylaminopyridine (0.488 g), morpholine (0.35 ml) and a solution of 3-bromophenylacetic acid (0.43 g) in dichloromethane (10 ml). The mixture was stirred overnight at room temperature. The reaction mixture was washed with 2M hydrochloric acid (3×100 ml), the organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated. The sub-title compound was obtained as a solid (0.550 g).

reactant | morpholine | 0.35 ml | N1CCOCC1 | C4H9NO
reactant | 3-bromophenylacetic acid | 0.43 g | BrC=1C=C(C=CC1)CC(=O)O | C8H7BrO2
catalyst | 4-dimethylaminopyridine | 0.488 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-Bromophenyl-1-morpholin-4-yl-ethanone | BrC=1C=C(C=CC1)CC(=O)N1CCOCC1 | C12H14BrNO2
